US06288061B1
tert-Butyl 3-(4-acetoxymethylphenyl)-2-hydroxyimino-3-oxopropionate (33.9 g) and 4-nitrobenzylamine (19.3 g) were reacted and treated in the same manner as in Starting Material Synthetic Example 1 to give tert-butyl 5-(4-acetoxymethylphenyl)-2-(4-nitrophenyl)-imidazole-4-carboxylate (7.07 g), melting point 178-180° C. (decomposition).

reactant | tert-Butyl 3-(4-acetoxymethylphenyl)-2-hydroxyimino-3-oxopropionate | 33.9 g | C(C)(=O)OCC1=CC=C(C=C1)C(C(C(=O)OC(C)(C)C)=NO)=O | C16H19NO6
reactant | 4-nitrobenzylamine | 19.3 g | [N+](=O)([O-])C1=CC=C(CN)C=C1 | C7H8N2O2
product | tert-butyl 5-(4-acetoxymethylphenyl)-2-(4-nitrophenyl)-imidazole-4-carboxylate | 7.07 g | C(C)(=O)OCC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OC(C)(C)C | C23H23N3O6
